US04678792
2-(3,4,5-Trimethoxybenzyl)-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride
The title compound is prepared analogously to Example A from 6,7-dimethoxy-3,4-dihydroisoquinoline and 3,4,5-trimethoxybenzyl chloride in dioxan. Melting point: 187°-189° C. (Decomp.)

reactant | 6,7-dimethoxy-3,4-dihydroisoquinoline | COC=1C=C2CCN=CC2=CC1OC | C11H13NO2
reactant | 3,4,5-trimethoxybenzyl chloride | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2-(3,4,5-Trimethoxybenzyl)-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride | [Cl-].COC=1C=C(C[N+]2=CC3=CC(=C(C=C3CC2)OC)OC)C=C(C1OC)OC | InChI=1S/C21H26NO5.ClH/c1-23-17-10-15-6-7-22(13-16(15)11-18(17)24-2)12-14-8-19(25-3)21(27-5)20(9-14)26-4;/h8-11,13H,6-7,12H2,1-5H3;1H/q+1;/p-1
